US06465467B1
Step 1: 2-Chloro-3-[2-(2-naphthyloxy)ethoxy]pyrazine.
Sodium hydride (55% dispersion in mineral oil; 44 mg, 1.0 mmol) was added to a mixture of 2-(2-naphthoxy)ethanol (188 mg, 1.00 mmol) and 2,3-dichloropyrazine (149 mg, 1.00 mmol) in dioxane (0.5 mL), and the reaction mixture was stirred at 40° C. for 15 h. The crude material was used directly in Step 2.

reactant | Sodium hydride | 1.0 mmol, 44 mg | [H-].[Na+]
reactant | 2-(2-naphthoxy)ethanol | 1.00 mmol, 188 mg | C1=C(C=CC2=CC=CC=C12)OCCO | C12H12O2
reactant | 2,3-dichloropyrazine | 1.00 mmol, 149 mg | ClC1=NC=CN=C1Cl | C4H2Cl2N2
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 2-Chloro-3-[2-(2-naphthyloxy)ethoxy]pyrazine | ClC1=NC=CN=C1OCCOC1=CC2=CC=CC=C2C=C1 | C16H13ClN2O2
